US08895544B2
{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-isothiazol-3-yl-methanone
The title compound was prepared from 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt (Preparation 25, 50 mg, 80 μmol) and isothiazole-3-carboxylic acid (11 mg, 80 μmol) using the same method as described in Example 1. The crude material was purified by HPLC Method A to afford 7.7 mg of the title compound.

reactant | 5-ethyl-2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 80 μmol, 50 mg | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1
reactant | isothiazole-3-carboxylic acid | 80 μmol, 11 mg | S1N=C(C=C1)C(=O)O | C4H3NO2S
product | {2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-isothiazol-3-yl-methanone | 7.7 mg | C(C)C1=C(C=C(C(=C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)C(=O)C2=NSC=C2)N1 | C25H21FN6O2S
